US06043248
4-t-Butyl-2-hydroxymethyl-pyridine (4.13 g, 25 mmole) is dissolved in 75 ml dioxane in a 200 ml one neck round bottom flask under nitrogen. The solution is treated with selenium dioxide (1.53 g, 13.75 mmole) and the reaction is warmed to 80-85° C. for 1 h. The mixture is cooled, diluted with dichloromethane, and is filtered through celite. The filter cake is washed well with dichloromethane and the filtrate is concentrated to an amber oil. The crude oil is passed through a 50 g plug of silica gel (230-400 mesh), eluting with 20% acetone/hexane, while collecting 100 ml fractions. Fractions 1-3 are combined and concentrated to give 3.91 g (96%) of 4-t-Butyl-2-pyridine-carboxaldehyde as a light amber oil.

reactant | 4-t-Butyl-2-hydroxymethyl-pyridine | 25 mmole, 4.13 g | C(C)(C)(C)C1=CC(=NC=C1)CO | C10H15NO
reactant | selenium dioxide | 13.75 mmole, 1.53 g | [Se](=O)=O | O2Se
solvent | dioxane | 75 ml | O1CCOCC1 | C4H8O2
solvent | dichloromethane | ClCCl | CH2Cl2
product | 4-t-Butyl-2-pyridine-carboxaldehyde | 3.91 g, 96% | C(C)(C)(C)C1=CC(=NC=C1)C=O | C10H13NO
